US04640913
4-(Hydroxymethyl)-5 -[4-(tetradecyloxy)phenyl]-2-pentanone
A mixture of about 12.0 g of 2-methyl-β-[[4-(tetradecyloxy)phenyl]methyl]-1,3-dioxolane-2-propanol, about 50 ml of about 1N hydrochloric acid and about 300 ml of dioxane was stirred for about 3 hours. The dioxane was then removed, the residue diluted with water and extracted with ether. The ether extract was washed with saturated aqueous sodium bicarbonate, dried and the solvent removed, giving an oil, which crystallized on standing, giving about 10.5 g of the desired title compound.

reactant | 2-methyl-β-[[4-(tetradecyloxy)phenyl]methyl]-1,3-dioxolane-2-propanol | about 12.0 g | CC1(OCCO1)CC(CO)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C28H48O4
reactant | hydrochloric acid | about 1N, about 50 ml | Cl | ClH
solvent | dioxane | about 300 ml | O1CCOCC1 | C4H8O2
product | 4-(Hydroxymethyl)-5 -[4-(tetradecyloxy)phenyl]-2-pentanone | about 10.5 g | OCC(CC(C)=O)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C26H44O3
